US05939413
To a solution of (1R)-N2 -(bromoacetyl)-1-(1H-indol-3-ylmethyl)-1,2-ethanediamine (3.30 g) in dimethylformamide (70 ml) was added potassium carbonate (3.30 g) at room temperature. The reaction mixture was stirred at 110° C. for 1 hour and 20 minutes. After cooling to room temperature, water and dichloromethane were added into the mixture, and the organic layer was separated. The aqueous layer was extracted successively with dichloromethane several times and a mixed solvent of ethyl acetate and methanol (10:1). The extracts were combined and dried over magnesium sulfate, and concentrated under reduced pressure to give (5R)-5-(1H-indol-3-ylmethyl)piperazin-2-one (2.47 g) as an oil.

reactant | (1R)-N2 -(bromoacetyl)-1-(1H-indol-3-ylmethyl)-1,2-ethanediamine | 3.30 g | BrCC(=O)NC[C@H](N)CC1=CNC2=CC=CC=C12 | C13H16BrN3O
reactant | potassium carbonate | 3.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | (5R)-5-(1H-indol-3-ylmethyl)piperazin-2-one | 2.47 g | N1C=C(C2=CC=CC=C12)C[C@H]1NCC(NC1)=O | C13H15N3O
